US07125869B2
12.9 g (325 mmol) of sodium hydroxide pellets are added to a solution of 16.9 g (58 mmol) of methyl 6-(2-methoxyethoxymethoxy)naphthalene-2-carboxylate in 200 ml of tetrahydrofuran, 20 ml of methanol and a few drops of water, and the reaction medium is stirred at room temperature for 4 hours. Next, aqueous 1N hydrochloric acid solution is added until pH=2 is obtained, and the reaction medium is extracted with ethyl acetate, dried over sodium sulfate, filtered and concentrated under vacuum. The residue obtained is washed with heptane and filtered. 14.9 g of 6-(2-methoxyethoxymethoxy)-2-naphthoic acid are obtained in the form of a white solid, in a yield of 92%.

reactant | sodium hydroxide | 325 mmol, 12.9 g | [OH-].[Na+]
reactant | methyl 6-(2-methoxyethoxymethoxy)naphthalene-2-carboxylate | 58 mmol, 16.9 g | COCCOCOC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C16H18O5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
catalyst | water | a few drops | O | H2O
product | 6-(2-methoxyethoxymethoxy)-2-naphthoic acid | 14.9 g, yield of 92% | COCCOCOC=1C=C2C=CC(=CC2=CC1)C(=O)O | C15H16O5
